US05010100
Step A: Preparation of 5-iodo-3-methoxy-4-propoxybenzaldehvde
n-Propyl bromide (29.2 mL, 0.32 mol) was added to a solution of 5-iodovanillin (50.0 g, 0.18 mol) in DMF (200 mL) containing potassium carbonate (48 g, 0.35 mol) at 80° C. The mixture was stirred at 80° C. for 1-1.5 hours or until TLC (SiO2, 4:1 [v/v] hexane-ethyl acetate) showed the reaction to be complete. The mixture was cooled and the solvent was decanted into ice-water (1 L). The product was extracted with ether and the ethereal layer was washed with water, dried over sodium sulfate, and evaporated in vacuo to an oil, which was used without further purification. Anal. calc. for C11H15IO3 : C, 41.27; H, 4.09. Found: C, 41.59; H, 4.15.

reactant | n-Propyl bromide | 0.32 mol, 29.2 mL | CCCBr | C3H7Br
reactant | 5-iodovanillin | 0.18 mol, 50.0 g | IC=1C(=C(C=C(C=O)C1)OC)O | C8H7IO3
reactant | potassium carbonate | 0.35 mol, 48 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 5-iodo-3-methoxy-4-propoxybenzaldehvde | IC=1C(=C(C=C(C=O)C1)OC)OCCC | C11H13IO3
